US07320993B1
N-(7-phenyl-heptyl)-3-pyridin-3-yl-acrylamide (Substance 3)
Batch size: 5.1 g (33.9 mmol) 3-(3-pyridyl)-acrylic acid, 6.6 ml (76.4 mmol) oxalyl chloride and 5.9 g (30.8 mmol) 7-phenyl-heptylamine.

reactant | 3-(3-pyridyl)-acrylic acid | 33.9 mmol, 5.1 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | oxalyl chloride | 76.4 mmol, 6.6 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 7-phenyl-heptylamine | 30.8 mmol, 5.9 g | C1(=CC=CC=C1)CCCCCCCN | C13H21N
product | N-(7-phenyl-heptyl)-3-pyridin-3-yl-acrylamide | C1(=CC=CC=C1)CCCCCCCNC(C=CC=1C=NC=CC1)=O | C21H26N2O
